** Name: SimpleTwoStageOpAmp_SimpleOpAmp31_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp31_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=3e-6 W=9e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=139e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=585e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=15e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX0 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=54e-6
mDiodeTransistorPmos6 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=1e-6 W=165e-6
mNormalTransistorNmos7 out outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=585e-6
mNormalTransistorNmos8 inputVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=99e-6
mNormalTransistorNmos9 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=119e-6
mNormalTransistorNmos10 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=202e-6
mNormalTransistorNmos11 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=119e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=3e-6 W=61e-6
mNormalTransistorNmos13 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=139e-6
mNormalTransistorPmos14 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=204e-6
mNormalTransistorPmos15 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 pmos4 L=9e-6 W=116e-6
mNormalTransistorPmos16 outInputVoltageBiasXXnXX1 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=410e-6
mNormalTransistorPmos17 FirstStageYout1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=1e-6 W=165e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.80001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp31_9

** Expected Performance Values: 
** Gain: 89 dB
** Power consumption: 13.8251 mW
** Area: 8884 (mu_m)^2
** Transit frequency: 28.8531 MHz
** Transit frequency with error factor: 28.8149 MHz
** Slew rate: 46.698 V/mu_s
** Phase margin: 55.004°
** CMRR: 94 dB
** negPSRR: 102 dB
** posPSRR: 89 dB
** VoutMax: 4.25 V
** VoutMin: 0.810001 V
** VcmMax: 4.16001 V
** VcmMin: 1.5 V


** Expected Currents: 
** NormalTransistorNmos: 65.1271 muA
** NormalTransistorPmos: -484.821 muA
** NormalTransistorPmos: -66.8389 muA
** NormalTransistorPmos: -66.8389 muA
** DiodeTransistorPmos: -66.8389 muA
** NormalTransistorNmos: 133.676 muA
** NormalTransistorNmos: 133.675 muA
** NormalTransistorNmos: 66.8381 muA
** NormalTransistorNmos: 66.8381 muA
** NormalTransistorNmos: 2071.3 muA
** DiodeTransistorNmos: 2071.3 muA
** NormalTransistorPmos: -2071.29 muA
** DiodeTransistorNmos: 484.822 muA
** NormalTransistorNmos: 484.822 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -65.1279 muA


** Expected Voltages: 
** ibias: 1.16101  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX0: 3.85801  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outInputVoltageBiasXXnXX1: 1.21801  V
** outSourceVoltageBiasXXnXX1: 0.609001  V
** outSourceVoltageBiasXXnXX2: 0.558001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 4.28601  V
** innerStageBias: 0.476001  V
** out1: 3.18601  V
** sourceTransconductance: 1.83801  V
** inner: 0.609001  V


.END