** Name: SimpleTwoStageOpAmp_SimpleOpAmp33_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp33_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=9e-6 W=43e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=3e-6 W=4e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=313e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=9e-6 W=47e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=6e-6
mDiodeTransistorPmos6 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=5e-6
mDiodeTransistorPmos7 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=2e-6 W=254e-6
mNormalTransistorNmos8 out outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=3e-6 W=313e-6
mNormalTransistorNmos9 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=9e-6 W=143e-6
mNormalTransistorNmos10 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=7e-6 W=77e-6
mNormalTransistorNmos11 outVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=9e-6 W=10e-6
mNormalTransistorNmos12 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=7e-6 W=77e-6
mNormalTransistorNmos13 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=9e-6 W=600e-6
mNormalTransistorNmos14 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=9e-6 W=275e-6
mNormalTransistorNmos15 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=4e-6
mNormalTransistorPmos16 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=431e-6
mNormalTransistorPmos17 outFirstStage inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=2e-6 W=177e-6
mNormalTransistorPmos18 outInputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=23e-6
mNormalTransistorPmos19 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=2e-6 W=254e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.10001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp33_9

** Expected Performance Values: 
** Gain: 97 dB
** Power consumption: 4.83701 mW
** Area: 14995 (mu_m)^2
** Transit frequency: 24.5141 MHz
** Transit frequency with error factor: 24.4824 MHz
** Slew rate: 40.4219 V/mu_s
** Phase margin: 55.577°
** CMRR: 104 dB
** negPSRR: 107 dB
** posPSRR: 97 dB
** VoutMax: 4.68001 V
** VoutMin: 1 V
** VcmMax: 4.47001 V
** VcmMin: 1.45001 V


** Expected Currents: 
** NormalTransistorNmos: 2.11701 muA
** NormalTransistorNmos: 30.4591 muA
** NormalTransistorPmos: -9.88199 muA
** DiodeTransistorPmos: -64.1299 muA
** NormalTransistorPmos: -64.1299 muA
** NormalTransistorPmos: -64.1299 muA
** NormalTransistorNmos: 128.258 muA
** NormalTransistorNmos: 128.257 muA
** NormalTransistorNmos: 64.1291 muA
** NormalTransistorNmos: 64.1291 muA
** NormalTransistorNmos: 786.721 muA
** DiodeTransistorNmos: 786.72 muA
** NormalTransistorPmos: -786.72 muA
** DiodeTransistorNmos: 9.88101 muA
** NormalTransistorNmos: 9.88001 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -2.11799 muA
** DiodeTransistorPmos: -30.4599 muA


** Expected Voltages: 
** ibias: 1.11701  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 4.11801  V
** outInputVoltageBiasXXnXX1: 1.40401  V
** outSourceVoltageBiasXXnXX1: 0.702001  V
** outSourceVoltageBiasXXnXX2: 0.555001  V
** outVoltageBiasXXpXX0: 4.09101  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 4.26801  V
** innerStageBias: 0.489001  V
** innerTransistorStack2Load1: 4.45101  V
** sourceTransconductance: 1.83201  V
** inner: 0.702001  V


.END