** Name: SimpleTwoStageOpAmp_SimpleOpAmp37_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp37_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=7e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=20e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=4e-6 W=22e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=4e-6 W=12e-6
mNormalTransistorNmos5 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=39e-6
mNormalTransistorNmos6 out ibias sourceNmos sourceNmos nmos4 L=4e-6 W=600e-6
mNormalTransistorNmos7 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=20e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=18e-6
mNormalTransistorNmos9 FirstStageYinnerStageBias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=54e-6
mNormalTransistorNmos10 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=20e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance outVoltageBiasXXnXX1 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=3e-6 W=59e-6
mNormalTransistorPmos12 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=420e-6
mNormalTransistorPmos13 outFirstStage inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=4e-6 W=378e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=4e-6 W=60e-6
mNormalTransistorPmos15 FirstStageYinnerTransistorStack1Load1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=7e-6 W=80e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack2Load1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=7e-6 W=80e-6
mNormalTransistorPmos17 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=4e-6 W=378e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.10001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp37_7

** Expected Performance Values: 
** Gain: 96 dB
** Power consumption: 5.76101 mW
** Area: 8089 (mu_m)^2
** Transit frequency: 25.0691 MHz
** Transit frequency with error factor: 25.0502 MHz
** Slew rate: 23.6267 V/mu_s
** Phase margin: 55.577°
** CMRR: 101 dB
** negPSRR: 108 dB
** posPSRR: 101 dB
** VoutMax: 4.66001 V
** VoutMin: 0.260001 V
** VcmMax: 4.97001 V
** VcmMin: 1.43001 V


** Expected Currents: 
** NormalTransistorNmos: 25.3341 muA
** NormalTransistorNmos: 55.8421 muA
** NormalTransistorPmos: -124.48 muA
** NormalTransistorPmos: -38.0939 muA
** NormalTransistorPmos: -38.0949 muA
** NormalTransistorPmos: -38.0939 muA
** NormalTransistorPmos: -38.0949 muA
** NormalTransistorNmos: 76.1851 muA
** NormalTransistorNmos: 76.1841 muA
** NormalTransistorNmos: 38.0931 muA
** NormalTransistorNmos: 38.0931 muA
** NormalTransistorNmos: 860.365 muA
** NormalTransistorPmos: -860.364 muA
** DiodeTransistorNmos: 124.481 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -25.3349 muA
** DiodeTransistorPmos: -55.8429 muA


** Expected Voltages: 
** ibias: 0.664001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 4.09601  V
** outVoltageBiasXXnXX1: 0.877001  V
** outVoltageBiasXXpXX0: 3.75201  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.259001  V
** innerTransistorStack1Load1: 4.40001  V
** innerTransistorStack2Load1: 4.40001  V
** out1: 4.00401  V
** sourceTransconductance: 1.94501  V


.END