** Name: SimpleTwoStageOpAmp_SimpleOpAmp37_8

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp37_8 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=2e-6 W=6e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=10e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=5e-6 W=35e-6
mNormalTransistorNmos4 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=72e-6
mNormalTransistorNmos5 out ibias SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=2e-6 W=188e-6
mNormalTransistorNmos6 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=157e-6
mNormalTransistorNmos7 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=76e-6
mNormalTransistorNmos8 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=157e-6
mNormalTransistorNmos9 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=2e-6 W=48e-6
mNormalTransistorNmos10 SecondStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=600e-6
mNormalTransistorPmos11 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=579e-6
mNormalTransistorPmos12 outFirstStage inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=5e-6 W=251e-6
mNormalTransistorPmos13 FirstStageYinnerTransistorStack1Load1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=2e-6 W=53e-6
mNormalTransistorPmos14 FirstStageYinnerTransistorStack2Load1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=2e-6 W=53e-6
mNormalTransistorPmos15 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=5e-6 W=251e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp37_8

** Expected Performance Values: 
** Gain: 104 dB
** Power consumption: 3.78201 mW
** Area: 7988 (mu_m)^2
** Transit frequency: 25.4491 MHz
** Transit frequency with error factor: 25.4299 MHz
** Slew rate: 23.9853 V/mu_s
** Phase margin: 55.004°
** CMRR: 104 dB
** negPSRR: 122 dB
** posPSRR: 104 dB
** VoutMax: 4.76001 V
** VoutMin: 0.830001 V
** VcmMax: 5.12001 V
** VcmMin: 1.30001 V


** Expected Currents: 
** NormalTransistorNmos: 71.0721 muA
** NormalTransistorPmos: -37.3799 muA
** NormalTransistorPmos: -37.3809 muA
** NormalTransistorPmos: -37.3799 muA
** NormalTransistorPmos: -37.3809 muA
** NormalTransistorNmos: 74.7571 muA
** NormalTransistorNmos: 74.7561 muA
** NormalTransistorNmos: 37.3791 muA
** NormalTransistorNmos: 37.3791 muA
** NormalTransistorNmos: 600.478 muA
** NormalTransistorNmos: 600.477 muA
** NormalTransistorPmos: -600.477 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -71.0729 muA


** Expected Voltages: 
** ibias: 1.16101  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 4.19401  V
** outSourceVoltageBiasXXnXX1: 0.558001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.564001  V
** innerTransistorStack1Load1: 4.45401  V
** innerTransistorStack2Load1: 4.45401  V
** out1: 4.15401  V
** sourceTransconductance: 1.94501  V
** innerStageBias: 0.480001  V


.END