** Name: SimpleTwoStageOpAmp_SimpleOpAmp38_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp38_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=7e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=96e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=38e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=1e-6 W=20e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=5e-6 W=9e-6
mNormalTransistorNmos6 out ibias sourceNmos sourceNmos nmos4 L=2e-6 W=600e-6
mNormalTransistorNmos7 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=9e-6 W=186e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=2e-6 W=15e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=2e-6 W=13e-6
mNormalTransistorNmos10 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=9e-6 W=186e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=38e-6
mNormalTransistorNmos12 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=96e-6
mNormalTransistorPmos13 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=449e-6
mNormalTransistorPmos14 outFirstStage outVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=5e-6 W=206e-6
mNormalTransistorPmos15 outInputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=1e-6 W=180e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack1Load1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=10e-6 W=150e-6
mNormalTransistorPmos17 FirstStageYinnerTransistorStack2Load1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=10e-6 W=150e-6
mNormalTransistorPmos18 FirstStageYout1 outVoltageBiasXXpXX1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=5e-6 W=206e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.10001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp38_7

** Expected Performance Values: 
** Gain: 96 dB
** Power consumption: 5.91701 mW
** Area: 10640 (mu_m)^2
** Transit frequency: 26.0481 MHz
** Transit frequency with error factor: 26.0287 MHz
** Slew rate: 24.5498 V/mu_s
** Phase margin: 55.577°
** CMRR: 102 dB
** negPSRR: 114 dB
** posPSRR: 101 dB
** VoutMax: 4.67001 V
** VoutMin: 0.180001 V
** VcmMax: 5.02001 V
** VcmMin: 1.27001 V


** Expected Currents: 
** NormalTransistorNmos: 21.4761 muA
** NormalTransistorNmos: 18.2751 muA
** NormalTransistorPmos: -195.807 muA
** NormalTransistorPmos: -39.3639 muA
** NormalTransistorPmos: -39.3649 muA
** NormalTransistorPmos: -39.3639 muA
** NormalTransistorPmos: -39.3649 muA
** NormalTransistorNmos: 78.7251 muA
** DiodeTransistorNmos: 78.7241 muA
** NormalTransistorNmos: 39.3631 muA
** NormalTransistorNmos: 39.3631 muA
** NormalTransistorNmos: 859.044 muA
** NormalTransistorPmos: -859.043 muA
** DiodeTransistorNmos: 195.808 muA
** NormalTransistorNmos: 195.808 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -21.4769 muA
** DiodeTransistorPmos: -18.2759 muA


** Expected Voltages: 
** ibias: 0.588001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 4.10801  V
** outInputVoltageBiasXXnXX1: 1.12201  V
** outSourceVoltageBiasXXnXX1: 0.561001  V
** outVoltageBiasXXpXX0: 4.19001  V
** outVoltageBiasXXpXX1: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 4.48101  V
** innerTransistorStack2Load1: 4.48101  V
** out1: 4.05101  V
** sourceTransconductance: 1.94501  V
** inner: 0.561001  V


.END