** Name: SimpleTwoStageOpAmp_SimpleOpAmp3_3

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp3_3 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=8e-6 W=41e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=7e-6 W=11e-6
mDiodeTransistorNmos3 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=4e-6 W=295e-6
mDiodeTransistorPmos4 ibias ibias sourcePmos sourcePmos pmos4 L=2e-6 W=15e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=20e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=7e-6 W=98e-6
mNormalTransistorNmos7 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=201e-6
mNormalTransistorNmos8 outFirstStage inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=8e-6 W=591e-6
mNormalTransistorNmos9 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=4e-6 W=295e-6
mNormalTransistorPmos10 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=2e-6 W=58e-6
mNormalTransistorPmos11 out inputVoltageBiasXXpXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=1e-6 W=596e-6
mNormalTransistorPmos12 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=10e-6 W=187e-6
mNormalTransistorPmos13 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=2e-6 W=34e-6
mNormalTransistorPmos14 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=10e-6 W=187e-6
mNormalTransistorPmos15 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=2e-6 W=416e-6
mNormalTransistorPmos16 SecondStageYinnerStageBias ibias sourcePmos sourcePmos pmos4 L=2e-6 W=575e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp3_3

** Expected Performance Values: 
** Gain: 95 dB
** Power consumption: 4.75401 mW
** Area: 14932 (mu_m)^2
** Transit frequency: 26.9011 MHz
** Transit frequency with error factor: 26.7968 MHz
** Slew rate: 30.7516 V/mu_s
** Phase margin: 57.2958°
** CMRR: 94 dB
** negPSRR: 95 dB
** posPSRR: 221 dB
** VoutMax: 4.54001 V
** VoutMin: 0.150001 V
** VcmMax: 3.52001 V
** VcmMin: 0.140001 V


** Expected Currents: 
** NormalTransistorNmos: 203.068 muA
** NormalTransistorPmos: -23.0369 muA
** NormalTransistorPmos: -39.2989 muA
** DiodeTransistorNmos: 140.938 muA
** NormalTransistorNmos: 140.939 muA
** NormalTransistorNmos: 140.938 muA
** NormalTransistorPmos: -281.872 muA
** NormalTransistorPmos: -140.936 muA
** NormalTransistorPmos: -140.936 muA
** NormalTransistorNmos: 383.457 muA
** NormalTransistorPmos: -383.456 muA
** NormalTransistorPmos: -383.457 muA
** DiodeTransistorNmos: 23.0361 muA
** DiodeTransistorNmos: 39.2981 muA
** DiodeTransistorPmos: -203.067 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.16201  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 0.705001  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outVoltageBiasXXnXX0: 0.820001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 0.555001  V
** innerTransistorStack2Load1: 0.150001  V
** sourceTransconductance: 3.71101  V
** innerStageBias: 4.43901  V


.END